US07067517B2
Methyl-phenyl-carbamic acid 2-(4-methoxy-phenyl)-imidazol-1-yl ester
The title compound was prepared from 1-hydroxy-2-(4-methoxyphenyl)imidazole, hydrochloride and N-methyl-N-phenylcarbamoyl chloride applying the general procedure 8. The crude product was purified by flash chromatography (Quad flash 12, EtOAc-heptane) (89%, crystals).

reactant | 1-hydroxy-2-(4-methoxyphenyl)imidazole, hydrochloride | Cl.ON1C(=NC=C1)C1=CC=C(C=C1)OC
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
product | Methyl-phenyl-carbamic acid 2-(4-methoxy-phenyl)-imidazol-1-yl ester | COC1=CC=C(C=C1)C=1N(C=CN1)OC(N(C1=CC=CC=C1)C)=O | C18H17N3O3
